US04703097
1.3-Bis(γ-methacryloxypropyl)-1,1,3,3-tetra(trimethylsiloxy)disiloxane (TETRA) was prepared following the same procedure as in Example (b) with 0.1 mole of γ-methacryloxypropyltrimethoxysilane (MEMO) and 0.2 mole of chlorotrimethylsilane.

reactant | γ-methacryloxypropyltrimethoxysilane | 0.1 mole | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
reactant | chlorotrimethylsilane | 0.2 mole | Cl[Si](C)(C)C | C3H9ClSi
product | 1.3-Bis(γ-methacryloxypropyl)-1,1,3,3-tetra(trimethylsiloxy)disiloxane | C(C(=C)C)(=O)OCCC[Si](O[Si](O[Si](C)(C)C)(O[Si](C)(C)C)CCCOC(C(=C)C)=O)(O[Si](C)(C)C)O[Si](C)(C)C | C26H58O9Si6
